US06632824B2
8-({2-[3-(2-Naphthyl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}sulfanyl)quinoline
The title compound was prepared by the procedure described in Example 8, Step 5, except that 8-(2-chloroethyl)-3-(2-naphthyl)-8-azabicyclo[3.2.1]octane was used in place of 8-(2-chloroethyl)-3-(2-naphthyl)-8-azabicyclo[3.2.1]oct-2-ene, and 8-quinolinethiol was used in place of 6-methoxyquinolin-8-ol. Yield: 36% of a tan solid. The corresponding oxalate salt was prepared by combining the title compound with 1 equiv. of oxalic acid in CH2Cl2/MeOH to precipitate a white solid. Yield: 71%; mp: 200-203° C.; MS (ES) m/z: 425.

reactant | 8-(2-chloroethyl)-3-(2-naphthyl)-8-azabicyclo[3.2.1]octane | ClCCN1C2CC(CC1CC2)C2=CC1=CC=CC=C1C=C2 | C19H22ClN
reactant | 8-quinolinethiol | N1=CC=CC2=CC=CC(=C12)S | C9H7NS
product | 8-({2-[3-(2-Naphthyl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}sulfanyl)quinoline | C1=C(C=CC2=CC=CC=C12)C1CC2CCC(C1)N2CCSC=2C=CC=C1C=CC=NC21 | C28H28N2S
